US07576215B2
4-(3-AMINOPHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBOXAMIDE
A mixture of 4-(3-aminophenyl)-8-(trifluoromethyl)quinoline-3-carbonitrile (0.30 g, 0.96 mmol), 30% hydrogen peroxide (5 mL), NaOH (0.5 g, 12 mmol) and ethanol (15 mL) was heated to ˜40° C. for 3 hours. The pH of the solution was adjusted to ˜6 by diluted HCl. The reaction mixture was partitioned between ethyl acetate and water and the aqueous layer was extracted with ethyl acetate. The combined organic phases were washed with water, brine, and dried with magnesium sulfate. The organic phases were concentrated and the residue was loaded onto silica gel and chromatographed with hexanes:ethyl acetate (50% to 100%) to afford 0.13 g of the title compound as an off-white solid. MS (ESI) m/z 332;

reactant | 4-(3-aminophenyl)-8-(trifluoromethyl)quinoline-3-carbonitrile | 0.96 mmol, 0.30 g | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C#N | C17H10F3N3
reactant | hydrogen peroxide | 5 mL | OO | H2O2
reactant | NaOH | 12 mmol, 0.5 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 4-(3-AMINOPHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE-3-CARBOXAMIDE | 0.13 g | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)N | C17H12F3N3O
